US04769501
108 g of o-cresol, 215 g of 38 wt% formalin, 50 g of sodium hydroxide, and 200 g of water were reacted for 96 hours at 25° C., and the reaction mixture was then neutralized with acetic acid, to obtain 126 g of 2,6-bis(hydroxymethyl)-4-methylphenol. (Yield: 75 mol%) The obtained 2,6-bis(hydroxymethyl)-4-methylphenol was reacted in 250 ml of methanol in the presence of 0.375 wt% of platinum-alumina catalyst and hydrogen for 4 hours at 180° C. at 179 kg/cm2 -G, and 15 g of 2,4,6-trimethylphenol was obtained. (Yield: 45 mol%) The yield on the basis of the raw material was 34 mol%.

reactant | o-cresol | 108 g | C1(=CC=CC=C1O)C | C7H8O
reactant | formalin | C=O | CH2O
reactant | sodium hydroxide | 50 g | [OH-].[Na+]
reactant | water | 200 g | O | H2O
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | 2,6-bis(hydroxymethyl)-4-methylphenol | 126 g | OCC1=C(C(=CC(=C1)C)CO)O | C9H12O3
